US09120789B2
Tert-butyl 2-fluoro-4-(2-(methylamino)-3-nitropyridin-4-yloxy)phenylcarbamate
Tert-butyl 2-fluoro-4-hydroxyphenylcarbamate (3.25 g, 14.4 mmol) was dissolved in DMSO (25 mL) and the solution was stirred under an argon atmosphere for 20 minutes. Sodium hydride (60% in mineral oil, 580 mg, 14.4 mmol) was added portionwise and the dark solution was stirred at room temperature for 1 hour. 4-chloro-N-methyl-3-nitropyridin-2-amine (2.7 g, 14.4 mmol) dissolved in DMSO (5 mL) was added at once and the red solution was stirred at 50° C. for 2 hours. The solution was cooled, poured onto crushed ice (200 g) and extracted with ethyl acetate (3×100 mL). The organic phases were washed with brine, dried and evaporated to give the title compound as a yellow solid.

reactant | Tert-butyl 2-fluoro-4-hydroxyphenylcarbamate | 14.4 mmol, 3.25 g | FC1=C(C=CC(=C1)O)NC(OC(C)(C)C)=O | C11H14FNO3
reactant | Sodium hydride | 14.4 mmol, 580 mg | [H-].[Na+]
reactant | 4-chloro-N-methyl-3-nitropyridin-2-amine | 14.4 mmol, 2.7 g | ClC1=C(C(=NC=C1)NC)[N+](=O)[O-] | C6H6ClN3O2
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | Tert-butyl 2-fluoro-4-(2-(methylamino)-3-nitropyridin-4-yloxy)phenylcarbamate | FC1=C(C=CC(=C1)OC1=C(C(=NC=C1)NC)[N+](=O)[O-])NC(OC(C)(C)C)=O | C17H19FN4O5
